US07667049B2
Synthesis of (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine dihydrochloride
360 mL of ethanol was added to 110 g of (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (equivalent to 758 mmol) to dissolve the compound. While this solution was stirred, 1.38 L of a 10% hydrogen chloride-methanol solution was added dropwise at an internal temperature of 27 to 33° C. 1.68 L of ethyl acetate was then added dropwise for crystallization (internal temperature of 19° C.). The mixture was stirred for 10 minutes at an internal temperature of 19° C. Subsequently, 1.08 L of ethyl acetate was added dropwise at an internal temperature of 18 to 19° C. and the mixture was stirred for 30 minutes at an internal temperature of 18 to 19° C. The resulting crystals were collected by filtration and washed with 600 mL of a 2:1 mixture of ethyl acetate/methanol. The washed product was drained for 30 minutes and dried by air-blowing at 60° C. for 17 hours to give 82.7 g of a crude product as reddish white powder crystals. To the crude product (82.5 g), 0.83 L of ethanol was added and 50 mL of purified water was added dropwise at an external temperature of 60 to 70° C. to dissolve the product (internal temperature of 65° C.). The solution was allowed to cool under stirring and then cooled in a water bath while kept stirred for crystallization (internal temperature of 28.0° C.). The mixture was continuously cooled in a water bath under stirring until its internal temperature was 20° C., after which it was cooled in an ice bath under stirring for 1 hour. The crystallized product was collected by filtration at an internal temperature of 3° C. and washed with 0.25 L of ethanol. The washed product was drained for 30 minutes and air-dried to give 48.2 g of the title compound as brown powder crystals (27% yield in the 2 steps).

reactant | ethanol | 360 mL | C(C)O | C2H6O
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 758 mmol, 110 g | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
reactant | hydrogen chloride methanol | Cl.CO
reactant | ethyl acetate | 1.68 L | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 1.08 L | C(C)(=O)OCC | C4H8O2
reactant | ethanol | 0.83 L | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine dihydrochloride | 48.2 g, 27% yield | Cl.Cl.C1(CC1)NC[C@H]1CNC[C@H]1F | InChI=1S/C8H15FN2.2ClH/c9-8-5-10-3-6(8)4-11-7-1-2-7;;/h6-8,10-11H,1-5H2;2*1H/t6-,8-;;/m1../s1
